US09340556B2
To the solution of 4-methoxybenzyl 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylate (24 g, 37.2 mmol) in methanol (400 mL) and water (133 mL) was added potassium hydroxide (8.35 g, 149 mmol). The reaction mixture was heated to reflux for 3 h. Solvent was removed under vacuum. The residue was suspended in water and the resulting mixture was acidified to pH4 with 2N hydrochloric acid. The precipitated solid was filtered and dried to afford 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid (12.6 g, 24.00 mmol, 64.5% yield). LCMS: (M+H)+: 525.2

reactant | 4-methoxybenzyl 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylate | 37.2 mmol, 24 g | ClC1=C2C(C(=NN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C(=O)OCC1=CC=C(C=C1)OC)=O | C35H33ClN2O8
reactant | potassium hydroxide | 149 mmol, 8.35 g | [OH-].[K+]
solvent | methanol | 400 mL | CO | CH4O
solvent | water | 133 mL | O | H2O
product | 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid | 24.00 mmol, 12.6 g, 64.5% yield | ClC1=C2C(C(=NN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C(=O)O)=O | C27H25ClN2O7
